US06919337B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.29 g, 1.9 mmol) is added to 5,6-diamino-1-isobutyl-3-methyl-1H-pyrimidine-2,4-dione (0.40 g, 1.9 mmol)) and (1-chloro-6,7-dimethoxy-isoquinolin-4-yl)-acetic acid (0.39 g, 1.78 mmol) in methanol and water and the mixture is stirred at ambient temperature for 2 hours. The methanol is evaporated and the resultant solid collected by filtration and recrystalised from ethylacetate/methanol. The resulting solid is heated under reflux with piperidine for 8 h. The solution is filtered and the resulting solution washed with water and brine, dried over sodium sulphate, filtered and concentrated. Further purification by flash silica column chromatography (eluant: ethylacetate/methanol) yields a solid which is dissolved 20% 1N NaOH/methanol and heated to reflux for 2 h. Concentration, addition of water and extraction with ethyl acetate gives an organic fraction which is washed with water and brine, dried over Na2SO4, filtered and concentrated to give 8-(6,7-dimethoxy-1-piperidin-1-yl-isoquinolin-4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione, MH+ 507.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.9 mmol, 0.29 g | Cl.CN(CCCN=C=NCC)C
reactant | 5,6-diamino-1-isobutyl-3-methyl-1H-pyrimidine-2,4-dione | 1.9 mmol, 0.40 g | NC=1C(N(C(N(C1N)CC(C)C)=O)C)=O | C9H16N4O2
reactant | (1-chloro-6,7-dimethoxy-isoquinolin-4-yl)-acetic acid | 1.78 mmol, 0.39 g | ClC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C13H12ClNO4
reactant | NaOH methanol | 1N | [OH-].[Na+].CO
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 8-(6,7-dimethoxy-1-piperidin-1-yl-isoquinolin-4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione | COC=1C=C2C(=CN=C(C2=CC1OC)N1CCCCC1)CC1=NC=2N(C(N(C(C2N1)=O)C)=O)CC(C)C | C27H34N6O4
